US05807883
12 ml of an aqueous 15% sodium methyl sulfide solution was added to 24 ml of an ethanol solution of 1.635 g of ethyl 3-[3-(3,4-dichlorobenzoylamino)-2,3-dihydro-1-(2-oxiranylmethyl)-2-oxo-1H-indol-3-yl]propionate. The mixture was stirred at 50° C. for 3 hours. The reaction mixture was concentrated, made acidic with aqueous 10% hydrochloric acid and extracted with ethyl acetate. The extract was washed, dried, filtered and then concentrated. The residue was purified by silica gel column chromatography [chloroform-methanol (10:1)] and recrystallized from ethyl acetate-hexane to afford 1.52 g of 3-[3-(3,4-dichlorobenzoylamino)-2,3-dihydro-1-(3-methylthio-2-hydroxypropyl)-2-oxo-1H-indol-3-yl]propionic acid as colorless needles. Melting point: 168.5° to 169.5° C., IR (Nujol) (cm-1): 3400, 3300, 1710, 1650, 1615, FAB-MS (m/z): 499 & 497 (MH+).

reactant | sodium methyl sulfide | CSC.[Na]
reactant | ethyl 3-[3-(3,4-dichlorobenzoylamino)-2,3-dihydro-1-(2-oxiranylmethyl)-2-oxo-1H-indol-3-yl]propionate | 1.635 g | ClC=1C=C(C(=O)NC2(C(N(C3=CC=CC=C23)CC2OC2)=O)CCC(=O)OCC)C=CC1Cl | C23H22Cl2N2O5
solvent | ethanol | 24 ml | C(C)O | C2H6O
product | 3-[3-(3,4-dichlorobenzoylamino)-2,3-dihydro-1-(3-methylthio-2-hydroxypropyl)-2-oxo-1H-indol-3-yl]propionic acid | 1.52 g | ClC=1C=C(C(=O)NC2(C(N(C3=CC=CC=C23)CC(CSC)O)=O)CCC(=O)O)C=CC1Cl | C22H22Cl2N2O5S
